US05965743
0.55 g of 1-[4-(3-benzenesulfonylpropyloxy)benzyl]imidazole were dissolved in a mixed solvent of ether and DME, and hydrogen chloride gas was blown into the resultant solution for 5 minutes. The crystals precipitated were separated by filtration, thereby affording 0.49 g of 1-[4-(3-benzenesulfonylpropyloxy)benzyl]imidazole hydrochloride with a melting point of 194-196° C.

reactant | 1-[4-(3-benzenesulfonylpropyloxy)benzyl]imidazole | 0.55 g | C1(=CC=CC=C1)S(=O)(=O)CCCOC1=CC=C(CN2C=NC=C2)C=C1 | C19H20N2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | DME | COCCOC | C4H10O2
product | 1-[4-(3-benzenesulfonylpropyloxy)benzyl]imidazole hydrochloride | 0.49 g | Cl.C1(=CC=CC=C1)S(=O)(=O)CCCOC1=CC=C(CN2C=NC=C2)C=C1 | InChI=1S/C19H20N2O3S.ClH/c22-25(23,19-5-2-1-3-6-19)14-4-13-24-18-9-7-17(8-10-18)15-21-12-11-20-16-21;/h1-3,5-12,16H,4,13-15H2;1H
